US05519129
The zidovudine guanidine salts from each of Compositions E and F were combined and thereafter added to a mixture of water (23 mL) and 32% hydrochloric acid (7.98 g) which had been heated to 85° C. The salts were completely dissolved in a few minutes and the pH of the mixture was 8.2. The pH was then adjusted to pH 1 by further addition of 32% hydrochloric acid the mixture was then cooled to ambient temperature and stirred for 16 hours. Thereafter, the mixture was further cooled to 5° C., stirred for 30 minutes, and filtered and washed with water to yield 15.74 g of substantially purified zidovudine--see Composition H in Table 1. The mother liquor from the production of Composition H was basified to pH 12.35 by addition of 50% sodium hydroxide to yield a precipitate which was filtered and washed with water to yield 2.18 g of zidovudine guanidine salt--see Composition I in Table 1--which was of sufficient purity to be recycled with other batches of zidovudine guanidine salts (i.e. combine with salts from Compositions E and F). The mother liquor was acidified to pH 1 and extracted several times with methyl isobutyl ketone and the combined extract was set aside.

reactant | zidovudine guanidine | CC1=CN(C(=O)NC1=O)[C@H]2C[C@@H]([C@H](O2)CO)N=[N+]=[N-].NC(=N)N
reactant | hydrochloric acid | 7.98 g | Cl | ClH
solvent | water | 23 mL | O | H2O
product | zidovudine | CC1=CN(C(=O)NC1=O)[C@H]2C[C@@H]([C@H](O2)CO)N=[N+]=[N-] | C10H13N5O4
